US07566712B2
Z. 4-(3-Chloro-4-fluorophenyl)-6-(4-(3-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)-2-(pyridin-4-yl)pyrimidine
Dissolve 4-chloro-6-(3-chloro-4-fluorophenyl)-2-(pyridin-4-yl)pyrimidine (64 mg, 0.2 mmoles) and 1-(3-(trifluoromethyl)-pyridin-2-yl)piperazine (46 mg, 0.2 mmoles) in DMA (2.0 mL) under nitrogen atmosphere. Add anhydrous powdered K2CO3 (55 mg, 0.4 mmoles) to this mixture and heat at 140° C. for 20 hours. Cool, dilute with water (5 mL), extract with EtOAc (3×2 mL) and dry over MgSO4. Filter, and concentrate under vacuum to afford crude product. Wash the crude product with Et2O (2.0 mL) to afford the title product as cream colored solid. NMR (CDCl3) δ 3.34 (4H, s), 3.99 (4H, s), 7.20 (1H, m), 7.47 (1H, s), 7.43 (1H, t), 8.09 (1H, d, J=2.0), 8.30 (2H, m), 8.35 (1H, m), 8.55 (2H, m), 8.70 (2H, m). Mass spec m/z=515.24.

reactant | 4-chloro-6-(3-chloro-4-fluorophenyl)-2-(pyridin-4-yl)pyrimidine | 0.2 mmoles, 64 mg | ClC1=NC(=NC(=C1)C1=CC(=C(C=C1)F)Cl)C1=CC=NC=C1 | C15H8Cl2FN3
reactant | 1-(3-(trifluoromethyl)-pyridin-2-yl)piperazine | 0.2 mmoles, 46 mg | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
reactant | K2CO3 | 0.4 mmoles, 55 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | 2.0 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 5 mL | O | H2O
product | 4-(3-Chloro-4-fluorophenyl)-6-(4-(3-(trifluoromethyl)pyridin-2-yl)piperazin-1-yl)-2-(pyridin-4-yl)pyrimidine | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C1=CC=NC=C1 | C25H19ClF4N6
